US08389555B2
STEP C: Preparation of propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine (1C)
To a solution of 14.5 g (38.9 mmol) N6-propyl-4,5,6,7-tetrahydro-benzothiazole-2,6-diamine dihydrobromide in 220 mL concentrated aqueous hydrochloric acid at −30° C. is drop wise added 66.3 mL of an aqueous 1N solution nitrite over the course of 30 minutes. After further stirring for 1 hour at the same temperature 5.44 ml (52.5 mmol) of a 50% aqueous solution hypophosphoric acid is added. The reaction mixture is stored at 4° C. overnight. After having cooled down the solution again to −30° C. the mixture is slowly basified with 40% aqueous sodium hydroxide solution while temperature is kept at −30° C. The resulting mixture is warmed up to room temperature and extracted with Chloroform/Ethanol 5:1 (3×250 mL) The solution is dried over anhydrous sodium sulfate and concentrated in vacuum. The brown oil obtained is chromatographed over silica gel, eluting with dichloromethane/methanol 97:3 under ammonia atmosphere.

reactant | N6-propyl-4,5,6,7-tetrahydro-benzothiazole-2,6-diamine dihydrobromide | 38.9 mmol, 14.5 g | Br.Br.C(CC)NC1CC2=C(N=C(S2)N)CC1
reactant | nitrite | N(=O)[O-]
reactant | hypophosphoric acid | P(=O)(O)(O)P(=O)(O)O | H4O6P2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 220 mL | Cl | ClH
product | propyl-(4,5,6,7-tetrahydro-benzothiazol-6-yl)-amine | C(CC)NC1CC2=C(N=CS2)CC1 | C10H16N2S
